US05977178
N-Methyl-N-((1R)-2-phenyl-1-((2,2,2-trifluoroethyl)carbamoyl)ethyl)carbamic acid tert-butyl ester (3.45 g(9.57 mmol) was dissolved in dichloromethane (8 ml). The solution was cooled to 0° C. Trifluoroacetic acid (8 ml) was added. The reaction mixture was stirred for 45 min at 0° C. A saturated aqueous solution of sodium hydrogen carbonate (40 ml) was added. Solid sodium hydrogen carbonate was added until pH 7. Water (100 ml) was added, until a clear solution was obtained. The phases were separated. The aqueous phase was extracted with dichloromethane (3×30 ml). The combined organic layers were dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (180 g), using dichloromethane/methanol/25% aqueous ammonia as eluent to give 1.13 g of (2R)-2-methylamino-3-phenyl-N-(2,2,2-trifluoroethyl)propionamide.

reactant | N-Methyl-N-((1R)-2-phenyl-1-((2,2,2-trifluoroethyl)carbamoyl)ethyl)carbamic acid tert-butyl ester | C(C)(C)(C)OC(N([C@H](CC1=CC=CC=C1)C(NCC(F)(F)F)=O)C)=O | C17H23F3N2O3
reactant | Trifluoroacetic acid | 8 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate | 40 ml | C(O)([O-])=O.[Na+]
reactant | Water | 100 ml | O | H2O
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | (2R)-2-methylamino-3-phenyl-N-(2,2,2-trifluoroethyl)propionamide | 1.13 g | CN[C@@H](C(=O)NCC(F)(F)F)CC1=CC=CC=C1 | C12H15F3N2O
